US05780500
1.0 g (3.48 mmol) of 10-bromomethyl-dibenz[b,f]oxepine in 3 ml of toluene is added dropwise at 40° C. to 30 ml of NH3 -saturated methanol and the mixture is stirred at 35°-50° C. for 1 hour and at room temperature overnight. The solvent is partially removed, and the reaction mixture is taken up in tert-butyl methyl ether, washed with 0.1N sodium hydroxide solution and extracted with 1N hydrochloric acid. The aqueous phase is rendered basic with sodium hydroxide pellets and extracted with tert-butyl methyl ether, the organic phase is dried over sodium sulfate and the solvent is removed. 349 mg (1.56 mmol)=45% of N-(dibenz[b,f]oxepin-10-ylmethyl)amine are obtained in the form of a light-yellow oil; TLC (silica gel, ethyl acetate; UV): Rf =0.09.

reactant | 10-bromomethyl-dibenz[b,f]oxepine | 3.48 mmol, 1.0 g | BrCC1=CC2=C(OC3=C1C=CC=C3)C=CC=C2 | C15H11BrO
reactant | NH3 | N | H3N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-(dibenz[b,f]oxepin-10-ylmethyl)amine | 45% | C1=CC=CC=2OC3=C(C(=CC21)CN)C=CC=C3 | C15H13NO
